US03937835
A solution of 7.6 g (0.025 mole) of dibenzothiophene-2,8 -dicarbonyl chloride and 6.5 g (0.05 mole) of 3-diethylaminopropanol in 1 liter of chlorofrom is heated at reflux for two hours. The solution is concentrated to 500 ml, diluted with petroleum ether (75°-90°) and the precipitated solid is crystallized from methanol-isopropanol and finally from water-acetone to yield bis(3-diethylaminopropyl)dibenzothiophene-2,8-dicarboxylate dihydrochloride, M.P. 243°-245°C.

reactant | dibenzothiophene-2,8 -dicarbonyl chloride | 0.025 mole, 7.6 g | C1=C(C=CC=2SC3=C(C21)C=C(C=C3)C(=O)Cl)C(=O)Cl | C14H6Cl2O2S
reactant | 3-diethylaminopropanol | 0.05 mole, 6.5 g | C(C)N(CCCO)CC | C7H17NO
product | bis(3-diethylaminopropyl)dibenzothiophene-2,8-dicarboxylate dihydrochloride | Cl.Cl.C(C)N(CCCOC(=O)C1=CC2=C(SC3=C2C=C(C=C3)C(=O)OCCCN(CC)CC)C=C1)CC | InChI=1S/C28H38N2O4S.2ClH/c1-5-29(6-2)15-9-17-33-27(31)21-11-13-25-23(19-21)24-20-22(12-14-26(24)35-25)28(32)34-18-10-16-30(7-3)8-4;;/h11-14,19-20H,5-10,15-18H2,1-4H3;2*1H
